US05126225
Example 2: Preparation of N,N-Dimethyl-N-(2-phenoxyethyl)benzylammonium m-Nitrobenzenesulfonate
A solution of 22.52 grams (0.10 mol) of sodium m-nitrobenzenesulfonate in 100 milliters of water was added to a warm solution of 33.63 grams (0.10 mol) of N,N-dimethyl-N-(2-phenoxyethyl)benzylammonium bromide in 100 milliters of water. An oily precipitate formed which crystallized on standing. The solid was collected, washed with water and then with ether. The solid was dissolved in methylene chloride. The water layer was separated and the organic layer was dried over magnesium sulfate and concentrated to a solid. The solid was recrystallized from 2-butanone to give 32.5 grams (70.88% of theory) of product; mp=122°-124° C.

reactant | sodium m-nitrobenzenesulfonate | 0.10 mol, 22.52 grams | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | N,N-dimethyl-N-(2-phenoxyethyl)benzylammonium bromide | 0.10 mol, 33.63 grams | [Br-].C[N+](CCOC1=CC=CC=C1)(C)CC1=CC=CC=C1
solvent | water | O | H2O
product | N,N-Dimethyl-N-(2-phenoxyethyl)benzylammonium m-Nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].C[N+](CCOC1=CC=CC=C1)(C)CC1=CC=CC=C1 | InChI=1S/C17H22NO.C6H5NO5S/c1-18(2,15-16-9-5-3-6-10-16)13-14-19-17-11-7-4-8-12-17;8-7(9)5-2-1-3-6(4-5)13(10,11)12/h3-12H,13-15H2,1-2H3;1-4H,(H,10,11,12)/q+1;/p-1
